US03946022
A mixture of 27.6 g (0.1 mole) of α,α-diphenyl-4-piperidinemethanol, 26.5 g (0.11 mole) of 6-chloro-4'-methoxycaprophenone, 20 g of potassium bicarbonate, and 0.1 g of potassium iodide in 300 ml of toluene and 45 ml of water is stirred on a steam bath for about 82 hours then worked up by the procedure described in Example 5 to give 6-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-4'-methoxycaprophenone hydrochloride.

reactant | α,α-diphenyl-4-piperidinemethanol | 0.1 mole, 27.6 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 6-chloro-4'-methoxycaprophenone | 0.11 mole, 26.5 g | ClCCCCCC(=O)C1=CC=C(C=C1)OC | C13H17ClO2
reactant | potassium bicarbonate | 20 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 45 ml | O | H2O
product | 6-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-4'-methoxycaprophenone hydrochloride | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCCCC(=O)C1=CC=C(C=C1)OC | InChI=1S/C31H37NO3.ClH/c1-35-29-18-16-25(17-19-29)30(33)15-9-4-10-22-32-23-20-28(21-24-32)31(34,26-11-5-2-6-12-26)27-13-7-3-8-14-27;/h2-3,5-8,11-14,16-19,28,34H,4,9-10,15,20-24H2,1H3;1H
